US06002008
N-{3-Cyano-4-[(3-methylphenyl)amino]-6-quinolinyl}-2-propenamide
Dissolved 500 mg (1.82 mmol) of 6-amino-4-[(3-methylphenyl)amino]-3-quinolinecarbonitrile in 1.0 ml DMF and 6 ml THF and chilled to 0° C. under N2. Added 280 μl (2.00 mmol) triethylamine and 166 μl (2.00 mmol) acryloyl chloride. Removed ice bath at 15 minutes and at 1 hour, stripped solvent and slurried residue with dilute sodium bicarbonate. Collected crystals and washed with water. Boiled solids in ethyl acetate, collected and dried in vacuo, giving 238 mg of yellow-orange solid: mass spectrum (electrospray m/e): M+H=329.1.

reactant | 6-amino-4-[(3-methylphenyl)amino]-3-quinolinecarbonitrile | 1.82 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C | C17H14N4
reactant | triethylamine | 2.00 mmol, 280 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 2.00 mmol, 166 μl | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-{3-Cyano-4-[(3-methylphenyl)amino]-6-quinolinyl}-2-propenamide | 238 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C)NC(C=C)=O | C20H16N4O
